### PR TITLE
VLSM projections from partial label projections

### PR DESCRIPTION
**Pull request by traiansf**
- including a refactoring of stream filtering and a generic treatment for projection of infinite traces

### CODE REVIEW

File: VLSM/Equivocators/Composition/Projections.v [hunk 1]
```diff
@@ -1844,36 +1857,76 @@ Proof.
...
-  - assert (Hpre_tr : finite_protocol_trace_from PreFreeE sX trX).
-    { revert H. apply VLSM_incl_finite_protocol_trace_from.
-      apply preloaded_equivocators_no_equivocations_vlsm_incl_PreFree.
-    }
-    apply equivocators_total_trace_project_final_state. assumption.
-  - assert (Hpre_tr : finite_protocol_trace PreFreeE sX trX).
-    { revert H. apply VLSM_incl_finite_protocol_trace.
-      apply equivocators_no_equivocations_vlsm_incl_PreFree.
-    }
+Admitted.
```
Comment (traiansf) [inline VLSM/Equivocators/Composition/Projections.v:1866]: This is left admitted here as it was more convoluted to prove; It is however proved in the subsequent PR where Equivocators are refactored.

**Comment by traiansf** [comment]
I think this is now ready for review. You can ignore most of the commit https://github.com/runtimeverification/casper-cbc-proofs/pull/254/commits/5306016f57ce213da2e8c2d6ce7cd3b7e80508cb because equivocators are being completely refactored in the subsequent PR #255

File: Lib/ListExtras.v [hunk 2]
```diff
@@ -934,6 +1058,21 @@ Proof.
     lia.
 Qed.
 
+Lemma list_suffix_lookup
```
Comment (palmskog) [inline Lib/ListExtras.v:1061]: This looks very Stdpp specific. Maybe we should just merge `ListExtras.v` and `StdppExtras.v`?

File: Lib/ListExtras.v [hunk 3]
```diff
@@ -1869,6 +2096,171 @@ Proof.
...
+  constructor; [|assumption].
+  clear IHl H.
+  induction l; [exact I|].
+  spec IHl.
+  { revert Hl. apply fsFurther2_transitive. assumption.
+  }
+  cbn. case_decide; [|assumption].
+  inversion Hl. assumption.
+Qed.
+
```
Comment (palmskog) [inline Lib/ListExtras.v:2262]: This file is getting very long now. We should try to figure out how to split it up according to application domain.

File: Lib/Preamble.v [hunk 4]
```diff
@@ -483,6 +442,14 @@ Defined.
 Definition compare_lt {A} (compare : A -> A -> comparison) (x y : A) : Prop :=
   compare x y = Lt.
 
+Global Instance compare_lt_dec
+  : forall A (compare : A -> A -> comparison) {Hord : CompareStrictOrder compare},
+    RelDecision (compare_lt compare).
```
Comment (palmskog) [inline Lib/Preamble.v:447]:
```suggestion
Global Instance compare_lt_dec A
 (compare : A -> A -> comparison) {Hord : CompareStrictOrder compare} :
 RelDecision (compare_lt compare).
```

**Review by palmskog — COMMENTED** [review]
This is a partial review, I will do a followup later.

File: Lib/ListExtras.v (hunk 3 above)
Comment (traiansf) [reply Lib/ListExtras.v:2262]: I totally agree with this and with the suggestion above. But I would make them a Proof Engineering task.

File: Lib/Preamble.v [hunk 5]
```diff
@@ -1020,3 +1024,15 @@ Definition sum_project_right
...
+Proof.
+  exists (n - m). lia.
+Qed.
+
+Lemma le_witness_lt_dec m n : {k & k + m = n} + {n < m}.
+Proof.
+  destruct (le_lt_dec m n).
+  - apply le_witness in l. left. exact l.
+  - right. exact l.
+Qed.
```
Comment (palmskog) [inline Lib/Preamble.v:1038]:
```suggestion
Program Definition le_plus_dec {m n} (Hle : m <= n) : { k | k + m = n} :=
 exist _ (n - m) _.
Next Obligation.
  simpl; lia.
Qed.

Definition le_plus_lt_dec m n : {k | k + m = n} + {n < m} :=
match le_lt_dec m n with
| left l => inleft (le_plus_dec l)
| right l => inright l
end.
```
These results live in `Set`, so here are suggestions for more idiomatic definitions and names.

File: VLSM/Equivocators/Composition/Common.v [hunk 6]
```diff
@@ -267,9 +267,10 @@ Definition equivocators_no_equivocations_vlsm
 Lemma equivocators_no_equivocations_vlsm_incl_equivocators_free
   : VLSM_incl equivocators_no_equivocations_vlsm equivocators_free_vlsm.
 Proof.
-  apply basic_VLSM_incl; intro; intros; [assumption| | |assumption].
+  apply basic_VLSM_incl; intro; intros; [assumption|..].
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/Common.v:270]: Do we really need to use the `..` operator? For maintainability, I think it's much better to explicitly write out tactics.

File: VLSM/Equivocators/Composition/LimitedEquivocation/FixedEquivocation.v [hunk 7]
```diff
@@ -1032,7 +1032,7 @@ Lemma pre_loaded_equivocators_composition_sub_projection_commute
       seed2).
 Proof.
   apply basic_VLSM_incl
-  ; intro; intros; [assumption | .. | assumption].
+  ; intro; intros; [assumption|..].
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/LimitedEquivocation/FixedEquivocation.v:1035]: Please write out the tactics instead (also below).

File: VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v [hunk 8]
```diff
@@ -671,7 +671,7 @@ Lemma parametric_constrained_incl
                               constraint)
   : VLSM_incl SeededXE (pre_loaded_vlsm (composite_vlsm equivocator_IM constraint) seed).
 Proof.
-  apply basic_VLSM_incl; intro; intros; [assumption| | |assumption].
+  apply basic_VLSM_incl; intro; intros; [assumption| .. |apply H].
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v:674]: Please write out the tactics for all branches that need them.

File: VLSM/VLSMProjections.v [hunk 9]
```diff
@@ -219,25 +217,171 @@ and @trace_project@, taking list of transitions from X to Y, such that:
...
 are projections in which some of transitions might be dropped, such as
 the projection of a composition to one of the components ([component_projection])
-or the projection of the compositions of equivocators to the composition of 
+or the projection of the compositions of equivocators to the composition of
 regular nodes using the particular [MachineDescriptor] which select the
 first (original) node instance for each equivocator (e.g.,
 [equivocators_no_equivocations_vlsm_X_vlsm_projection]).
 *)
 
+Definition _VLSM_projection_in_projection
```
Comment (palmskog) [inline VLSM/VLSMProjections.v:226]: Do we really have to start identifier names with `_`? It's difficult to separate them from other identifiers when you scan a lot of text. Please consider using some clear prefix instead, like `xyz_<...>`.

**Review by palmskog — COMMENTED** [review]
These are a lot of changes and I don't feel qualified to sign off on it. Maybe @bmmoore can comment at least on the coinductive machinery/predicates? I think he was working on similar things for liveness before.

File: VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v (hunk 8 above)
Comment (traiansf) [reply VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v:674]: I'll keep that in mind. However, for these particular files, I'll update the subsequent PR concerning equivocators to avoid extra conflicts.

**Review by bmmoore — APPROVED** [review]
I haven't reviewed much of the new projection stuff.
The infinite trace properties look okay, except it does seem that we now have quite a lot of generic stream stuff, which should probably be organized a bit better than tossing everything into StreamExtras. Perhaps we could depend on an existing library for this stuff?
